US06887874B2
To a solution of benzyl alcohol (221 mg, 2.05 mmol) in DMA (1.5 ml) was added 60% sodium hydride (82 mg, 2.05 mmol). The mixture was stirred for 1 hour at ambient temperature. A solution of 1,2-difluoro-3-(2,2-dimethoxypropyl)-4-nitrobenzene (534 mg, 2.05 mmol) in DMA (1.5 ml) was added and the mixture was stirred for 3 hours at ambient temperature. The mixture was diluted with 1N hydrochloric acid (10 ml) and extracted with ethyl acetate. The organic layer was evaporated and the residue was dissolved in TBF (2 ml) and 6N hydrochloric acid (0.3 ml) was added. The mixture was stirred for 1 hour at ambient temperature and the solvents were removed under vacuum. The residue was partitioned between ethyl acetate and water. The organic layer was separated, washed with brine, dried (MgSO4) and evaporated. The solid was triturated with ether, filtered, washed with ether and dried under vacuum to give 3-acetylmethyl-1-benzyloxy-2-fluoro-4-nitrobenzene (350 mg, 56%).

reactant | benzyl alcohol | 2.05 mmol, 221 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 2.05 mmol, 82 mg | [H-].[Na+]
reactant | 1,2-difluoro-3-(2,2-dimethoxypropyl)-4-nitrobenzene | 2.05 mmol, 534 mg | FC1=C(C(=C(C=C1)[N+](=O)[O-])CC(C)(OC)OC)F | C11H13F2NO4
solvent | DMA | 1.5 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 1.5 ml | CC(=O)N(C)C | C4H9NO
solvent | hydrochloric acid | 1N, 10 ml | Cl | ClH
product | 3-acetylmethyl-1-benzyloxy-2-fluoro-4-nitrobenzene | 350 mg, 56% | C(C)(=O)CC=1C(=C(C=CC1[N+](=O)[O-])OCC1=CC=CC=C1)F | C16H14FNO4
